US08455475B2
tert-Butyl 8-(2,2,2-trifluoroacetyl)-2,8-diazaspiro[4.5]decane-2-carboxylate
To a stirred solution of tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate (600 mg, 2.5 mmol, 1 eq.) in MC (25 ml) DIPEA was added, the mixture stirred for 5-10 min and then TFAA (2.6 g, 12.5 mmol, 5 eq.) was added at 0° C. The reaction mixture was stirred at 25° C. for 2.5 h. The mixture was then diluted with MC (200 ml) and washed with water (2×100 ml) and brine (100 ml). The organic layer was dried over Na2SO4, filtered and evaporated to dryness to yield a yellowish oil. The crude product was used in the next step without further purification.

reactant | tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate | 2.5 mmol, 600 mg, 1 eq. | C1N(CCC12CCNCC2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | TFAA | 12.5 mmol, 2.6 g, 5 eq. | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DIPEA | 25 ml | CCN(C(C)C)C(C)C | C8H19N
product | tert-Butyl 8-(2,2,2-trifluoroacetyl)-2,8-diazaspiro[4.5]decane-2-carboxylate | FC(C(=O)N1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)(F)F | C15H23F3N2O3
